US07495007B2
Di-tert-butyl-dicarbonate (17.8 g, 0.081 mol) and DIPEA (11.6 g, 0.090 mol) were dissolved in ethanol (200 mL) at room temperature. Then 2-aminoethylbromide hydrobromide (20 g, 0.098 mmol) was added. The reaction mixture was stirred at room temperature for 3 h, then concentrated. The residue was dissolved in ethyl acetate and washed with water for three times. The organic layer was separated, dried over Na2SO4 and concentrated to give (2-bromo-ethyl)-carbamic acid tert-butyl ester as light yellow oil. (15 g)

reactant | Di-tert-butyl-dicarbonate | 0.081 mol, 17.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 0.090 mol, 11.6 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-aminoethylbromide hydrobromide | 0.098 mmol, 20 g | Br.NCCBr
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | (2-bromo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
